US07772234B2
Step D: Preparation of 5-Bromo-2-(2,4-dichlorophenylamino)-3,4-difluorobenzoic acid methyl ester.
A mixture of 5-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (2.07 g, 5.50 mmol), NCS (789 mg, 5.91 mmol), and catalytic amount of conc. HCl in DMF (41 mL) was stirred for 1 hour at room temperature. The reaction mixture was diluted with EtOAc, and washed with water (5×). The organic layer was dried over MgSO4, filtered, and concentrated to give the crude material which was purified by silica gel flash column chromatography (3 to 5% EtOAc in hexanes) to afford the desired product (2.02 g, 89%).

reactant | 5-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 5.50 mmol, 2.07 g | COC(C1=C(C(=C(C(=C1)Br)F)F)NC1=C(C=CC=C1)Cl)=O | C14H9BrClF2NO2
reactant | NCS | 5.91 mmol, 789 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | HCl | Cl | ClH
solvent | DMF | 41 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromo-2-(2,4-dichlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 2.02 g, 89% | COC(C1=C(C(=C(C(=C1)Br)F)F)NC1=C(C=C(C=C1)Cl)Cl)=O | C14H8BrCl2F2NO2
